US04118461
1 -[β-(2,4-dichlorophenyl)hexyl]-3-butylimidazolium iodide
1-[β-(2,4-dichlorophenyl)hexyl]imidazole 5.0 g (0.0168 moles) is heated for two hours on a steambath with 3.1g (0.0168 moles) of 1-iodobutane. The reaction is cooled and triturated three times with 50 ml of ether. The oil residue is stripped to dryness to give 5.3g (66%) of the oil product.

reactant | 1-[β-(2,4-dichlorophenyl)hexyl]imidazole | 0.0168 moles, 5.0 g | ClC1=C(C=CC(=C1)Cl)C(CN1C=NC=C1)CCCC | C15H18Cl2N2
reactant | 1-iodobutane | 0.0168 moles, 3.1g | ICCCC | C4H9I
product | 1 -[β-(2,4-dichlorophenyl)hexyl]-3-butylimidazolium iodide | 5.3g, 66% | [I-].ClC1=C(C=CC(=C1)Cl)C(C[N+]1=CN(C=C1)CCCC)CCCC | InChI=1S/C19H27Cl2N2.HI/c1-3-5-7-16(18-9-8-17(20)13-19(18)21)14-23-12-11-22(15-23)10-6-4-2;/h8-9,11-13,15-16H,3-7,10,14H2,1-2H3;1H/q+1;/p-1
